US06869954B2
1) Preparation of 6-(3-fluoro-4-methoxyphenyl)-2-[3-(4-fluorophenyl)propyl]-4-methoxycarbonyl-2H-pyridazin-3-one
Following the procedure of Example 1(6), 6-(3-fluoro-4-methoxyphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one and the mesylate derivative of 3-(4-fluorophenyl)-1-propanol {J. Med. Chem., 19, 461 (1976)} were reacted to yield the title compound as a yellow oil (yield: 90.1%). The mesylate derivative was prepared in accordance with the procedure of Example 1(9).

reactant | 6-(3-fluoro-4-methoxyphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | FC=1C=C(C=CC1OC)C=1C=C(C(NN1)=O)C(=O)OC | C13H11FN2O4
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | 3-(4-fluorophenyl)-1-propanol | FC1=CC=C(C=C1)CCCO | C9H11FO
product | 6-(3-fluoro-4-methoxyphenyl)-2-[3-(4-fluorophenyl)propyl]-4-methoxycarbonyl-2H-pyridazin-3-one | yield: 90.1% | FC=1C=C(C=CC1OC)C=1C=C(C(N(N1)CCCC1=CC=C(C=C1)F)=O)C(=O)OC | C22H20F2N2O4
